### PR TITLE
[Merged by Bors] - refactor(GroupAction/Blocks): additivise, fix names, golf API

### PR DESCRIPTION
**Pull request by YaelDillies**
Most of the API can be additivised smoothly. The lemma names didn't match the naming convention. Some proofs were harder than necessary because of the suboptimal definition of `IsBlock` as `∀ _, _ ∨ _` rather than `∀ _, _ → _`.

From LeanCamCombi

---

- [x] depends on: #17907

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Subgroup/Pointwise.lean [hunk 1]
```diff
@@ -340,6 +345,20 @@ theorem conj_smul_subgroupOf {P H : Subgroup G} (hP : P ≤ H) (h : H) :
 
 end Monoid
 
+section Group
+variable [Group H] [MulAction G H] [IsScalarTower G H H]
+
+@[to_additive]
+lemma pairwiseDisjoint_smul [SetLike S H] [SubgroupClass S H] (s : S) :
+    (Set.range fun a : G ↦ a • (s : Set H)).PairwiseDisjoint id := by
```
Comment (vihdzp) [inline Mathlib/Algebra/Group/Subgroup/Pointwise.lean:353]: Can you also prove the version for right cosets?

Comment (b-mehta) [reply Mathlib/Algebra/Group/Subgroup/Pointwise.lean:353]: This looks like the kind of statement that might also be nice unfolded: if `a != b` then `Disjoint (a • s) (b • s)`. That way, it's easy to access the disjointness (eg for rewriting with lemmas which ask for a disjointness assumption) without going through Set.range and PairwiseDisjoint and Function.onFun. (Of course the version with PairwiseDisjoint should still exist!)

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Subgroup/Pointwise.lean:353]: > if `a != b` then `Disjoint (a • s) (b • s)`
... except that it's wrong! It's really important that we take the range before talking about disjointness

Comment (YaelDillies) [reply Mathlib/Algebra/Group/Subgroup/Pointwise.lean]: > Can you also prove the version for right cosets?

I thought my statement already covered it, but it seems like it can't: The left version must use `smul_coe_set` while the right version must use `op_smul_coe_set`

**Comment by tb65536** [comment]
Is there any way to unify this with the material in `GroupTheory/GroupAction/Blocks`?

**Comment by YaelDillies** [comment]
> Is there any way to unify this with the material in `GroupTheory/GroupAction/Blocks`?

Yes indeed there is, but the API is irritating so here's a rewrite instead 😇

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 2]
```diff
@@ -3,11 +3,7 @@ Copyright (c) 2024 Antoine Chambert-Loir. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Antoine Chambert-Loir
 -/
-
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:6]: Split off to #17906 and #17907

File: Mathlib/GroupTheory/GroupAction/Basic.lean [hunk 3]
```diff
@@ -296,6 +296,8 @@ variable {G α β : Type*} [Group G] [MulAction G α] [MulAction G β]
 
 section Orbit
 
+-- TODO: This proof is redoing a special case of `MulActionIsInvariantBlock.isBlock`. Can we move
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Basic.lean:299]:
```suggestion
-- TODO: This proof is redoing a special case of `MulAction.IsInvariantBlock.isBlock`. Can we move
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 4]
```diff
@@ -76,275 +75,229 @@ end orbits
...
     IsBlock (Subgroup.map (MulEquiv.toMonoidHom (MulAut.conj g)) H) (g • B) := by
-  rw [IsBlock.def_one]
+  rw [isBlock_iff_smul_eq_or_disjoint]
   intro h'
   obtain ⟨h, hH, hh⟩ := Subgroup.mem_map.mp (SetLike.coe_mem h')
   simp only [MulEquiv.coe_toMonoidHom, MulAut.conj_apply] at hh
   suffices h' • g • B = g • h • B by
     simp only [this]
-    apply (hB.smul_eq_or_disjoint ⟨h, hH⟩).imp
+    apply (hB.smul_eq_or_disjoint (g := ⟨h, hH⟩)).imp
```
Comment (b-mehta) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:278]: This makes it seem like making `g` implicit was a bad idea - there are no cases where you saved an underscore (or anything else, for that matter), but there is a case where you needed to specify it explicitly. What's the justification for this?

**Review by b-mehta — APPROVED** [review]

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 4 above)
Comment (b-mehta) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean]: Great!

**Comment by AntoineChambert-Loir** [comment]
I had a look at the files. I have no comment.

**Review by AntoineChambert-Loir — APPROVED** [review]

**Comment by b-mehta** [comment]
Thanks for your comment Antoine!

bors merge
